US05677309
To a mixture of 2-chloro-4-phenylhydrazinoquinazoline (2 g, 7.4 mmol) and N,N-diisopropylethylamine (2 ml, 11.4 mmol) in THF was added phosgene (6 ml, 20% in Toluene) slowly, then stirred for additional 5 min. The reaction mixture was poured into water and extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with brine and dried over Na2SO4 and evaporated under reduced pressure. The residue was triturated with ethanol and filtered to afford 5-chloro-2-phenyl-1,2,4-triazolo[4,3-c]quinazolin-3-one (1.8 g) as a yellow solid. m.p. 167°-168° C.

reactant | 2-chloro-4-phenylhydrazinoquinazoline | 7.4 mmol, 2 g | ClC1=NC2=CC=CC=C2C(=N1)NNC1=CC=CC=C1 | C14H11ClN4
reactant | N,N-diisopropylethylamine | 11.4 mmol, 2 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosgene | 6 ml | C(=O)(Cl)Cl | CCl2O
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 5-chloro-2-phenyl-1,2,4-triazolo[4,3-c]quinazolin-3-one | 1.8 g | ClC1=NC=2C=CC=CC2C=2N1C(N(N2)C2=CC=CC=C2)=O | C15H9ClN4O
